US07335687B2
A solution of 126.5 g (459.4 mmol) of trans-(4-Formyl-cyclohexyl)-methyl-carbamic acid benzyl ester in 1.27 l 2-methyl-2-butanol was treated with 263.6 g (551.3 mmol) (4-bromobutyl)triphenylphosphonium bromide and 254 g (1838 mmol) of K2CO3 and was heated at reflux for 3.5 h. The reaction was cooled (RT), filtered and evaporated. The residue was suspended in hexane (1.8 l, first at RT then at 0° C.) and filtered. Purification by column chromatography on silica gel (hexane/EtOAc 4:1) gave 149.9 g (83%) of trans-(1 E/Z)-[4-(5-Bromo-pent-1-enyl)-cyclohexyl]-methyl-carbamic acid benzyl ester, MS: 293 (M, 1Br).

reactant | trans-(4-Formyl-cyclohexyl)-methyl-carbamic acid benzyl ester | 459.4 mmol, 126.5 g | C(C1=CC=CC=C1)OC(N(C)[C@@H]1CC[C@H](CC1)C=O)=O | C16H21NO3
reactant | (4-bromobutyl)triphenylphosphonium bromide | 551.3 mmol, 263.6 g | [Br-].BrCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | K2CO3 | 1838 mmol, 254 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 2-methyl-2-butanol | 1.27 l | CC(C)(CC)O | C5H12O
product | [4-(5-Bromo-pent-1-enyl)-cyclohexyl]-methyl-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(C)C1CCC(CC1)C=CCCCBr)=O | C20H28BrNO2
